US06930120B2
2-(4-{2-[5-Methyl-2-(1-methyl-cyclohexyl)-oxazol-4-yl]-ethoxy}-benzyl)-2-phenoxy-butyric acid
The title compound was prepared from 2-(4-hydroxybenzyl)-2-phenoxybutyric acid ethyl ester and toluene-4-sulfonic acid 2-[5-methyl-2-(1-methylcyclohexyl)oxazol-4-yl)-ethyl ester using the method of Example 46. 1H NMR (400 MHz, CDCl3) δ 7.29 (dd, 2H, J=8.60 Hz, J=7.43 Hz), 7.07-7.03 (m, 1H), 7.02-6.96 (m, 4H), 6.72 (d, 2H, J=8.60 Hz), 4.10 (t, 2H, J=6.25 Hz), 2.38 (s, 2H), 2.95 (t, 2H, J=6.25 Hz), 2.29 (s, 3H), 2.15-2.01 (m, 4H), 1.56-1.36 (m, 8H), 1.30 (s, 3H), 0.91 (t, 3H, J=7.43 Hz); MS (ES+) calcd for C30H38NO5: Found m/e 492.3 (M+1, 100%).

reactant | 2-(4-hydroxybenzyl)-2-phenoxybutyric acid ethyl ester | C(C)OC(C(CC)(OC1=CC=CC=C1)CC1=CC=C(C=C1)O)=O | C19H22O4
reactant | toluene-4-sulfonic acid 2-[5-methyl-2-(1-methylcyclohexyl)oxazol-4-yl)-ethyl ester | CC1=C(N=C(O1)C1(CCCCC1)C)CCOS(=O)(=O)C1=CC=C(C=C1)C | C20H27NO4S
product | 2-(4-{2-[5-Methyl-2-(1-methyl-cyclohexyl)-oxazol-4-yl]-ethoxy}-benzyl)-2-phenoxy-butyric acid | CC1=C(N=C(O1)C1(CCCCC1)C)CCOC1=CC=C(CC(C(=O)O)(CC)OC2=CC=CC=C2)C=C1 | C30H37NO5
